US06002008
4-Dimethylamino-but-2-enoic acid [4-(3-bromo-phenylamino)-3-cyano-7-methoxy-quinolin-6-yl]-amide
To a mixture of 1.9 g (5.1 mmol) of 4-[(3-bromophenyl)amino]-7-methoxy-6-amino-3-quinolinecarbonitrile and 5.3 ml (31 mmol) of Hunig's base in 110 ml of dry THF at 0° C., with stirring, was added a THF solution containing 5.7 g (31 mmol) of 4-bromo crotonyl chloride dropwise. The mixture was stirred for additional 0.5 hour after addition. 100 ml of saturated sodium chloride solution was added to the reaction mixture, then it was extracted with ethyl acetate. The ethyl acetate solution was dried over sodium sulfate and then was added to 40 ml of dimethyl amine solution (2.0 M in THF) at 0° C. dropwise. The solution was stirred an additional 0.5 hour. The mixture was poured into diluted sodium bicarbonate solution. The organic layer was separated and dried over sodium sulfate. Chromatography gave 1.4 g of beige solid: mass spectrum (electrospray, m/e): M+H 480.0 and 481.9.

reactant | 4-[(3-bromophenyl)amino]-7-methoxy-6-amino-3-quinolinecarbonitrile | 5.1 mmol, 1.9 g | BrC=1C=C(C=CC1)NC1=C(C=NC2=CC(=C(C=C12)N)OC)C#N | C17H13BrN4O
reactant | Hunig's base | 31 mmol, 5.3 ml | CCN(C(C)C)C(C)C | C8H19N
reactant | 4-bromo crotonyl chloride | 31 mmol, 5.7 g | BrC/C=C/C(=O)Cl | C4H4BrClO
reactant | sodium chloride | 100 ml | [Cl-].[Na+]
solvent | THF | 110 ml | C1CCOC1 | C4H8O
product | 4-Dimethylamino-but-2-enoic acid [4-(3-bromo-phenylamino)-3-cyano-7-methoxy-quinolin-6-yl]-amide | 1.4 g | BrC=1C=C(C=CC1)NC1=C(C=NC2=CC(=C(C=C12)NC(C=CCN(C)C)=O)OC)C#N | C23H22BrN5O2
